US07037987B2
Synthesis of N-(mesityl)-N′-(2-hydroxyphenyl)-oxalamide
N-(Mesityl)-oxanilic acid ethyl ester (5.23 g, 24.4 mmol, 1 eq) and 2-aminophenol (2.67 g, 24.4 mmol, 1.0 eq) were dissolved in toluene (50 ml), forming a suspension. To this suspension was added triethylamine (6.8 ml, 50 mmol, 2 eq). The suspension was then heated to reflux, causing the solids to dissolve. After heating at reflux overnight, the product precipitated. At this point, ethyl acetate was added until the precipitate redissolved. The solution was then washed with 2 M HCl solution (2×100 ml). The aqueous layer was then washed with ethyl acetate, and the combined organic layers were washed with brine (100 ml), and dried over MgSO4. The solvent was then removed under reduced pressure, leaving a yellowish solid. The yellowish solid was then recrystallized from toluene, producing a product, white crystalline solid (5.26 g, 17.7 mmol, 72.4% yield). 1H NMR (300 MHz, CDCl3) δ 9.69 (s, 1H), 8.84 (s, 1H), 8.11 (s, J=7.7 Hz, 1H), 7.51 (dd, J=8.0, 1.8 Hz, 1H), 7.14 (ddd, J=1.5, 8.1, 7.2 Hz, 1H), 6.92 (m, 3H), 2.30 (s, 3H), 2.22 (s, 6H); 13C NMR (75 MHz, CDCl3) δ 158.2, 157.9, 148.2, 138.2, 134.9, 129.5, 129.4, 127.7, 124.3, 122.2, 121.1, 118.9, 21.2, 18.6. Anal. Calcd for C17H18N2O3: C, 68.44; H, 6.08; N, 9.39. Found: C, 68.50; H, 5.96; N, 9.44.

reactant | N-(Mesityl)-oxanilic acid ethyl ester | 24.4 mmol, 5.23 g, 1 eq | C(C)OC(C(=O)N(C1=CC=CC=C1)C1=C(C=C(C=C1C)C)C)=O | C19H21NO3
reactant | 2-aminophenol | 24.4 mmol, 2.67 g, 1.0 eq | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 50 mmol, 6.8 ml, 2 eq | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(mesityl)-N′-(2-hydroxyphenyl)-oxalamide | 17.7 mmol, 5.26 g, 72.4% yield | C1(=C(C(=CC(=C1)C)C)NC(C(=O)NC1=C(C=CC=C1)O)=O)C | C17H18N2O3
